US08217028B2
To a solution of ethyl 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]-4-oxobutanoate (D52) (20 mg) in THF (2 mL) was added aqueous NaOH (2 M, 1 mL), the reaction was stirred at room temperature overnight. The mixture was acidified with aqueous HCl (2M) to pH 4-5, and then partitioned with ethyl acetate (10 mL) and water (10 mL). The organic phase was washed with water (10 mL) and brine (10 mL), dried over anhydrous sodium sulphate and evaporated to give the crude product, which was purified by Mass Directed Auto Prep to afford 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]-4-oxobutanoic acid (E33) (12 mg). δH (DMSO-d6, 400 MHz): 1.37 (6H, d), 2.59 (2H, t), 3.20 (2H, t), 4.91 (1H, m), 7.41 (1H, t), 7.47 (1H, d), 8.04 (1H, dd), 8.22 (1H, dd), 8.36 (1H, d), 8.41 (1H, d), 8.44 (1H, dd), 11.81 (1H, br s). MS (ES): C23H20ClN3O5 requires 453; found 454.2 (M+H+).

reactant | ethyl 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]-4-oxobutanoate | 20 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)C(CCC(=O)OCC)=O | C25H24ClN3O5
reactant | NaOH | 2 M, 1 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]-4-oxobutanoic acid | 12 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)C(CCC(=O)O)=O | C23H20ClN3O5
